US07855290B2
3-(Azetidin-1-ylmethyl)-1-benzhydrylazetidine
Lithium aluminum hydride (300 mg) was suspended in tetrahydrofuran (10 ml) under a nitrogen atmosphere at room temperature, and a solution of 3-(azetidin-1-ylcarbonyl)-1-benzhydrylazetidine (1.14 g) in tetrahydrofuran (30 ml) was added dropwise. After the dropwise addition, the reaction mixture was stirred at 60° C. for 2 hr. The reaction mixture was cooled in an ice water bath, and water (0.3 ml), a 5N aqueous solution of sodium hydroxide (0.3 ml) and water (0.9 ml) were added, followed by stirring overnight. Insoluble matter was removed by filtration and washed with ethyl acetate (100 ml). The filtrate was concentrated under reduced pressure to provide the titled compound as a pale brown oil (1.115 g, quantitative).

reactant | Lithium aluminum hydride | 300 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 3-(azetidin-1-ylcarbonyl)-1-benzhydrylazetidine | 1.14 g | N1(CCC1)C(=O)C1CN(C1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C20H22N2O
reactant | water | 0.3 ml | O | H2O
reactant | sodium hydroxide | 0.3 ml | [OH-].[Na+]
reactant | water | 0.9 ml | O | H2O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 3-(Azetidin-1-ylmethyl)-1-benzhydrylazetidine | 1.115 g | N1(CCC1)CC1CN(C1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C20H24N2
